US04794109
(9a) 4-(tetrazol-1-yl)-butyric acid ethyl ester
4 ml of orthoformic acid triethyl ester and 6 ml of acetic acid are added to 0.84 g of 4-aminobutyric acid ethyl ester hydrochloride and 0.9 g of sodium azide and the whole is heated under reflux for 7 hours. After cooling, the reaction mixture is taken up in ethyl acetate and aqueous sodium bicarbonate solution, the organic phases are separated off and washed four times with aqueous sodium bicarbonate solution. After washing with water and brine, the ethyl acetate phase is dried over sodium sulphate and concentrated to form the title compound.

reactant | orthoformic acid triethyl ester | 4 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
reactant | 4-aminobutyric acid ethyl ester hydrochloride | 0.84 g | Cl.C(C)OC(CCCN)=O
reactant | sodium azide | 0.9 g | [N-]=[N+]=[N-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(tetrazol-1-yl)-butyric acid ethyl ester | C(C)OC(CCCN1N=NN=C1)=O | C7H12N4O2
